US05476846
a) 1-(Bromomethyl)-4-[2-(trimethylsilyloxy)ethyl]benzene
To a solution of 20.9 g (97.2 mmoles) of 4-(bromomethyl)benzeneethanol (obtained in according to Plaue S. and Heissler D., Tetrahedron Lett. (1987) 28, 1401-4), in 150 ml of tetrahydrofuran maintained at 5° C., there is poured dropwise 20.5 ml (97.2 mmoles) of 1,1,1,3,3,3-hexamethyldisilazane, then 13.55 ml (97.2 mmoles) of triethylamine, then finally 12.3 ml (97.2 mmoles) of trimethylsilyl chloride. The reaction mixture is stirred 1 hour at the same temperature, before filtrating the precipitate formed and rinsing it with hexane. The filtrate, concentrated to dryness under reduced pressure, is purified by distillation to give 16.8 g (yield=60.0%) of a colorless liquid. b.p.0.35 =98°-108° C. N.M.R. (CDCl3): δ=0.0 (9H,s); 2.7 (2H,t, J=6.75 Hz); 3.7 (2H,t, J=6.75 Hz); 4,3 (2H,s); 6.8-7.5 (4H,m).

reactant | 4-(bromomethyl)benzeneethanol | 97.2 mmoles, 20.9 g | BrCC1=CC=C(C=C1)CCO | C9H11BrO
reactant | 1,1,1,3,3,3-hexamethyldisilazane | 97.2 mmoles, 20.5 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | triethylamine | 97.2 mmoles, 13.55 ml | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyl chloride | 97.2 mmoles, 12.3 ml | C[Si](C)(C)Cl | C3H9ClSi
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 1-(Bromomethyl)-4-[2-(trimethylsilyloxy)ethyl]benzene | 16.8 g, yield=60.0% | BrCC1=CC=C(C=C1)CCO[Si](C)(C)C | C12H19BrOSi
